US08377957B2
N-Benzyl-2-chloro-3-nitroquinolin-4-amine (31.9 g, 0.102 mol), 5% platinum on carbon (3.2 g), and acetonitrile (325 mL) were added to a Parr vessel and shaken under hydrogen pressure (30 psi, 2.1×105 Pa) overnight. The mixture was filtered through a layer of CELITE filter agent, and the filtrate was concentrated under reduced pressure and further dried under high vacuum to provide 27.82 g of N4-benzyl-2-chloroquinoline-3,4-diamine, which was used without purification.

reactant | N-Benzyl-2-chloro-3-nitroquinolin-4-amine | 0.102 mol, 31.9 g | C(C1=CC=CC=C1)NC1=C(C(=NC2=CC=CC=C12)Cl)[N+](=O)[O-] | C16H12ClN3O2
catalyst | platinum on carbon | 3.2 g | [Pt] | Pt
solvent | acetonitrile | 325 mL | C(C)#N | C2H3N
product | N4-benzyl-2-chloroquinoline-3,4-diamine | 27.82 g | C(C1=CC=CC=C1)NC1=C(C(=NC2=CC=CC=C12)Cl)N | C16H14ClN3
